data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_36891_0,[C:1](/[C:5](=[C:4](\[N:6]=[C:3](/[N:2]([H:7])[H:8])[H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([H:11])[C:3]([N:2]([H:7])[H:8])([H:9])[N:6]=[C:4]1[H:10])([H:12])([H:13])[H:14],62.12061749999819
MR_388508_1,[C:1]([N:6][C:4]([N:2]([O:5][C:3](=[O:7])[H:9])[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([C:3](=[O:7])[H:9])[C@@:4]1([H:10])[N:2]([H:8])[O:5]1)([H:11])([H:12])[H:13],56.11418750000354
MR_222974_1,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:6]([H:9])[H:10])([C:7](=[O:8])[H:11])([H:12])[H:13]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:9])[H:10])[C:7](=[O:8])[H:11])([H:12])[H:13],52.56881250000177
MR_140348_1,[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:2]([H:12])([H:13])[C:6]1([C:3]([C:5]([H:19])([H:20])[H:21])([H:14])[H:15])[O:8][C:7](=[O:9])[H:11]>>[C:1]([C:2]([C:6]([C:3]([C:5]([H:19])([H:20])[H:21])([H:14])[H:15])=[O:8])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])([C:7](=[O:9])[H:11])[H:10],61.19631000001334
MR_449594_1,[C@@:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:4]([H:11])[H:12])[H:14])([C:5](=[O:8])[H:13])([O:7][H:9])[H:10]>>[C@@:1]1([O:7][H:9])([H:10])[C@:3]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:13])[C@:6]1([N:4]([H:11])[H:12])[H:14],58.85761750003255
MR_236449_2,[C@@:1]1([N:6]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[C@:2]([C:5]([H:16])([H:17])[H:18])([H:9])[O:7]1>>[C:1]1([N:6]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[C:2]([C:5]([H:16])([H:17])[H:18])([H:9])[O:7]1,53.35569749997688
MR_335885_0,[C:1](/[C:2](=[N:8]/[H:15])[H:12])([C:5]([C:3]([H:17])([H:18])[H:19])([C:6]([C:4]([H:20])([H:21])[H:22])=[O:10])[O:9][H:16])([N:7]([H:13])[H:14])[H:11]>>[C:1]([C:2]([C:6]([C:4]([H:20])([H:21])[H:22])=[O:10])([N:8]([H:15])[H:16])[H:12])([C:5]([C:3]([H:17])([H:18])[H:19])=[O:9])([N:7]([H:13])[H:14])[H:11],48.1141900000128
MR_607556_0,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:3]([O:7][C:4]([N:6]([H:11])[H:12])=[O:9])[O:8][H:10])([H:13])([H:14])[H:18]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])([C:3](=[O:7])[O:8][H:10])[C:4]([N:6]([H:11])[H:12])=[O:9])([H:13])([H:14])[H:18],50.44158749998644
MR_189145_1,[N:1]([N:2]([H:7])[H:8])([C:3](=[O:6])[H:9])[C:4](=[C:5]([H:11])[H:12])[H:10]>>[N:1](\[N:2]([H:7])[H:8])=[C:3](\[O:6][C:4](=[C:5]([H:11])[H:12])[H:10])[H:9],66.8011400000232
MR_81784_1,[C:1](/[C:3](=[N:5]/[N:2]([H:7])[H:8])[H:11])([O:4][H:6])([H:9])[H:10]>>[C:1](=[C:3]([N:5]([N:2]([H:7])[H:8])[O:4][H:6])[H:11])([H:9])[H:10],67.88671499999325
MR_143023_0,[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:5](/[O:6][H:7])[H:12])([N:4]([H:10])[H:11])([H:13])[H:14]>>[C:1](=[C:2]([N:3]([H:8])[H:9])[C:5]([N:4]([H:10])[H:11])([O:6][H:7])[H:12])([H:13])[H:14],65.19285750001742
MR_412634_1,[C:1]([N:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:9]/[H:11])/[C:7](=[C:6](\[C:3]([H:19])([H:20])[H:21])[O:8][H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:4]1[C:5]([C:2]([H:16])([H:17])[H:18])([N:9]([H:10])[H:11])[C:7]1([C:6]([C:3]([H:19])([H:20])[H:21])=[O:8])[H:12])([H:13])([H:14])[H:15],60.78153250002615
MR_420826_0,[C:1]([N:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([N:3]([N:8]([H:18])[H:19])[H:9])([N:6]([H:16])[H:17])[N:7]([H:14])[H:15]>>[C:1]([N:3]([N:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:9])([N:6]([H:16])[H:17])([N:7]([H:14])[H:15])[N:8]([H:18])[H:19],64.28737499998505
MR_352707_1,[C:1](/[C:4]([N:7]([H:15])[H:16])=[N:9]\[C:2](=[C:3]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[O:8][H:10])([H:17])([H:18])[H:19]>>[C:1]([C:4]1([N:7]([H:15])[H:16])[C:3]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[C:2]([O:8][H:10])=[N:9]1)([H:17])([H:18])[H:19],33.26565749997769
MR_26864_1,[C:1](/[N:7]=[C:5]([C:4](\[C:2]([H:13])([H:14])[H:15])=[C:6](/[C:3]([H:16])([H:17])[H:18])[H:9])/[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:5]([H:8])=[C:4]([C:2]([H:13])([H:14])[H:15])[C@:6]1([C:3]([H:16])([H:17])[H:18])[H:9])([H:10])([H:11])[H:12],63.04618000001554
MR_84273_2,[C:1]1([C:4]([H:16])([H:17])[H:18])(/[C:7](=[C:8](\[C:6]([C:5]([H:19])([H:20])[H:21])=[O:9])[H:15])[H:14])[C:2]([H:10])([H:11])[C:3]1([H:12])[H:13]>>[C:1]1(=[C:4]([H:16])[H:17])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:6]([C:5]([H:19])([H:20])[H:21])([O:9][H:18])[C:8]([H:15])=[C:7]1[H:14],64.95628999997265
MR_268723_1,[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:7](/[C:8]([C:4]([N:6]([H:12])[H:13])=[O:10])([C:5]([C:3]([H:19])([H:20])[H:21])=[C:9]([H:22])[H:23])[H:15])[H:14])[H:11]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:4]([N:6]([H:12])[H:13])=[O:10])(/[C:7](=[C:8](/[C:5]([C:3]([H:19])([H:20])[H:21])=[C:9]([H:22])[H:23])[H:15])[H:14])[H:11],69.73909500002478
MR_234974_0,[C:1](/[C:6](=[C:2]([C:4](=[C:5](/[N:3]([H:9])[H:10])[H:12])/[H:11])\[O:7][H:8])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([O:7][H:8])=[C:4]([H:11])[C:5]1([N:3]([H:9])[H:10])[H:12])([H:14])([H:15])[H:16],36.90013750000418
